US04753933
The procedure is similar to that described in Example 1, but starting with 2,6-difluorobenzoic acid (11.3 g), N,N'-carbonyldiimidazole (12.9 g) and 2-amino-7-(3-dimethylaminopropoxy)-1,8-naphthyridine (11.8 g). The product obtained by precipitation in water followed by drying is dissolved in boiling acetone (450 cc). After 3 hours' cooling at 4° C., the crystallized solid is separated by filtration, washed with acetone (10 cc) and dried at 40° C. under reduced pressure (0.07 kPa). N-[7-(3-Dimethylaminopropoxy)-1,8-naphthyridin-2-yl]-2,6-difluorobenzamide (7.2 g), m.p. 190° C., is obtained.

reactant | 2,6-difluorobenzoic acid | 11.3 g | FC1=C(C(=O)O)C(=CC=C1)F | C7H4F2O2
reactant | 2-amino-7-(3-dimethylaminopropoxy)-1,8-naphthyridine | 11.8 g | NC1=NC2=NC(=CC=C2C=C1)OCCCN(C)C | C13H18N4O
solvent | water | O | H2O
product | N-[7-(3-Dimethylaminopropoxy)-1,8-naphthyridin-2-yl]-2,6-difluorobenzamide | 7.2 g | CN(CCCOC1=CC=C2C=CC(=NC2=N1)NC(C1=C(C=CC=C1F)F)=O)C | C20H20F2N4O2
